datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]1([C:6]([C:7]([H:19])([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])[H:18])[H:12])([H:10])[H:11],93.8471
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14])[H:4],19.7903
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7](=[C:8]([H:19])[H:20])[H:18])=[C:9]([C:10](=[C:11]([H:23])[H:24])[H:22])[H:21])([H:16])[H:17])[H:15])[H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([H:14])=[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]([C:7](=[C:8]([H:19])[H:20])[H:18])[C:9]1([C:10](=[C:11]([H:23])[H:24])[H:22])[H:21])[H:12],105.897
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([C:19]([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:27])([H:28])[H:29]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:19]([C:18]([H:27])([H:28])[H:29])([C:20]([H:30])([H:31])[H:32])[c:21]1[c:22]([H:33])[c:23]([H:34])[c:24]([H:35])[c:25]([H:36])[c:26]1[H:37])([H:6])([H:7])[H:8],42.1329
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9](=[S:10])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:11])([H:3])[H:4].[C:8]([C:9](=[S:10])[H:14])([H:12])[H:13],-2.9288
[C:0](=[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[O:11][O:12]>>[C:0](=[C:1]([C:2]([C:3]=[O:4])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:11][O:12],157.3184
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([C:7]([C:8]([C:9]([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13])[H:12]>>[C:0](#[C:1][C:2]1([H:13])[C:3]([C:4](=[C:5]([H:15])[H:16])[H:14])[C:6]([H:17])([H:18])[C:7]([H:19])([H:20])[C:8]([H:21])([H:22])[C:9]1([C:10](=[C:11]([H:25])[H:26])[H:24])[H:23])[H:12],57.4045
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13]([C:12]([H:17])([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:7])([H:5])[H:6],77.655
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[C:21]([C:22]([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])([H:29])([H:30])[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])([C:7](=[C:8]([H:19])[H:20])[H:18])[C:22]([C:21]([H:29])([H:30])[H:31])([c:23]1[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]1[H:37])[H:32])[H:11])([H:9])[H:10],33.1373
[N:0]=[O:1].[S:2]>>[N:0](=[O:1])[S:2],0.0
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:13])([H:14])[H:15])([H:12])[C:16]([H:17])([H:18])[H:19])[H:8])([H:6])[H:7],14.9787
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:13](=[C:14]([H:16])[H:17])[H:15])[H:7],-2.84512
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12](=[S:13])[H:17])([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[H:17])[H:6])([H:4])[H:5].[C:11]([C:12]=[S:13])([H:14])([H:15])[H:16],119.579
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]([O:2][C:7]([H:8])([H:9])[H:10])[H:5])([H:3])[H:4].[H:6],185.794
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8]1([H:15])([H:16])[C:9]([H:17])([H:18])[C:10]2([H:19])[C:11]([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]1([H:24])[C:14]2([H:25])[H:26]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:25])[H:5].[C:8]1([H:15])([H:16])[C:9]([H:17])([H:18])[C:10]2([H:19])[C:11]([H:20])([H:21])[C:12]([H:22])([H:23])[C:13]1([H:24])[C:14]2[H:26],87.864
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([S:11][H:22])([c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])[H:21])([H:18])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:21])[H:4].[C:9]([C:10]([S:11][H:22])[c:12]1[c:13]([H:23])[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]1[H:27])([H:18])([H:19])[H:20],14.2256
